US07691850B2
c) (R)-2-Bromo-1-(6-methoxy-[1,5]-naphthyridin-4-yl)ethanol
Bromomethyl-(6-methoxy-[1,5]-naphthyridin-4-yl)-ketone (6.6 g, 0.023 mol) in toluene was treated with (+)-B-chlorodiisopinocamphenylborane ((+)-DIP-chloride) (12 g, 0.037 mol) and stirred overnight, then diethanolamine (15 g, 0.14 mol) added and the mixture stirred for 3 hours, filtered and evaporated. Chromatography on silica gel (ethyl acetate-hexane) gave a white solid (4.73 g, 73%).

reactant | Bromomethyl-(6-methoxy-[1,5]-naphthyridin-4-yl)-ketone | 0.023 mol, 6.6 g | BrCC(=O)C1=CC=NC2=CC=C(N=C12)OC | C11H9BrN2O2
reactant | (+)-B-chlorodiisopinocamphenylborane | 0.037 mol, 12 g | B([C@H]1C[C@@H]2C[C@H]([C@@H]1C)C2(C)C)([C@H]3C[C@@H]4C[C@@H]([C@@H]3C)C4(C)C)Cl | C20H34BCl
reactant | diethanolamine | 0.14 mol, 15 g | N(CCO)CCO | C4H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (R)-2-Bromo-1-(6-methoxy-[1,5]-naphthyridin-4-yl)ethanol | 4.73 g, 73% | BrC[C@H](O)C1=CC=NC2=CC=C(N=C12)OC | C11H11BrN2O2
